US07981903B2
To 5-(3-methyl-4-nitrophenyl)-1-propyl-1,2,3,6-tetrahydropyridine (5.0 g, 19.2 mmol) in MeOH (100 mL) was added iron (III) chloride (0.93 g, 5.8 mmol, Aldrich) and activated carbon (1.0 g, Aldrich). The reaction mixture was stirred at 64° C. for 20 min before the dropwise addition of hydrazine hydrate (11.5 mL, 230.8 mmol, Aldrich) over 5 min. The reaction was kept stirring at 64° C. for additional 5 h. Filtration removed the solids and the filtrate was concentrated and purified via chromatography on SiO2 (0-10% 2 M NH3 in MeOH/DCM) to afford 2-methyl-4-(1-propyl-1,2,5,6-tetrahydro-3-pyridinyl)aniline (3.6 g, 82% yield.) 1H NMR (400 MHz, CDCl3) δ ppm 0.94 (t, J=7.4 Hz, 3 H), 1.57-1.67 (m, 2 H), 2.16 (s, 3 H), 2.33 (tt, J=5.9, 2.9 Hz, 2 H), 2.44-2.50 (m, 2 H), 2.59 (t, J=5.8 Hz, 2 H), 3.29 (q, J=2.0 Hz, 2 H), 3.58 (s, 2 H), 5.96 (dq, J=3.9, 2.0 Hz, 1 H), 6.61 (d, J=7.9 Hz, 1 H), 7.02-7.06 (m, 2 H).

reactant | 5-(3-methyl-4-nitrophenyl)-1-propyl-1,2,3,6-tetrahydropyridine | 19.2 mmol, 5.0 g | CC=1C=C(C=CC1[N+](=O)[O-])C1=CCCN(C1)CCC | C15H20N2O2
reactant | hydrazine hydrate | 230.8 mmol, 11.5 mL | O.NN
solvent | MeOH | 100 mL | CO | CH4O
catalyst | iron (III) chloride | 5.8 mmol, 0.93 g | [Fe](Cl)(Cl)Cl
product | 2-methyl-4-(1-propyl-1,2,5,6-tetrahydro-3-pyridinyl)aniline | 3.6 g, 82% yield | CC1=C(N)C=CC(=C1)C=1CN(CCC1)CCC | C15H22N2
